US05594145
22.4 g of 2-amino-6-fluorobenzothiazole (pure substance content: 97%) and 191.1 g of 30% hydrochloric acid are introduced into a 750 ml pressure vessel at room temperature. The mixture is subsequently heated for 30 minutes at 50° C. and then cooled to 10° C. Then, 46.7 g of aqueous, 40% sodium nitrite solution are metered in at a uniform rate in the course of 1 hour at 10° C., with vigorous stirring. After metering in has ended, stirring of the reaction mixture is continued for 12 hours at 20° C. Excess nitrite is then removed by adding approximately 12.5 g of 18% aqueous urea solution. The reaction vessel is subsequently sealed, and the reaction mixture is heated for 5 hours at 140°-150° C. (pressure approximately 4-5 bar). After the mixture has cooled to 20° C., the gray, crystalline product is filtered off with suction, washed with a small amount of water and dried at 60° C. to constant weight. 18.9 g of 6-fluorobenzothiazol-2-one with a pure substance content of 97.7% are obtained (corresponding to 85% yield). The product which is redissolved under alkaline conditions has a melting point of 188.4° C.

reactant | 2-amino-6-fluorobenzothiazole | 22.4 g | NC=1SC2=C(N1)C=CC(=C2)F | C7H5FN2S
reactant | hydrochloric acid | 191.1 g | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 6-fluorobenzothiazol-2-one | 18.9 g, 85% yield | FC1=CC2=C(NC(S2)=O)C=C1 | C7H4FNOS
